US07973051B2
i) 2-(2-Methoxy-ethyl)-3-methyl-thiophene
Some drops from a solution of 2-bromo-3-methylthiophene (1.5 g, 8.5 mmol) in dry diethyl ether was added to a suspension of magnesium (308 mg, 12.7 mmol, 1.5 equiv.) in dry diethyl ether until the Grignard reagent began to form and the mixture started to reflux. The remaining solution was added dropwise. A solution of toluene-4-sulfonic acid 2-methoxy-ethyl ester (2.9 g, 12.7 mmol, 1.5 equiv.) in dry diethyl ether was added dropwise at room temperature, and the mixture was refluxed for two hours. After cooling to room temperature, the mixture was quenched with saturated ammonium chloride solution and extracted with tert. butylmethyl ether. The combined organic extracts were washed with water, brine, dried over magnesiumsulfate-dihydrate, filtered and evaporated to give a yellow oil. After purification on silica gel, 490 mg of the title compound were obtained as a light yellow oil. GC-MS (EI): M=156

reactant | 2-bromo-3-methylthiophene | 8.5 mmol, 1.5 g | BrC=1SC=CC1C | C5H5BrS
reactant | magnesium | 12.7 mmol, 308 mg, 1.5 equiv. | [Mg] | Mg
reactant | toluene-4-sulfonic acid 2-methoxy-ethyl ester | 12.7 mmol, 2.9 g, 1.5 equiv. | COCCOS(=O)(=O)C1=CC=C(C=C1)C | C10H14O4S
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(2-Methoxy-ethyl)-3-methyl-thiophene | 490 mg | COCCC=1SC=CC1C | C8H12OS
